US04918223
N-(4'-chlorobenzovl)-D-penicillamine
27.5 g (0.2 mole) 4-chlorobenzonitrile, 29.8 g (0.2 mole) D-penicillamine and 13.8 g (0.1 mole) potassium carbonate were heated in 350 ml methanol and 150 ml water for 6 hours at the boiling point. After the mixture was acidified with concentrated hydrochloric acid to pH 4, it was heated one hour under nitrogen at the boiling point. After it cooled off, 42.6 g (74% of theory) of a colorless precipitate was isolated, which had a melting point of 174° C.

reactant | 4-chlorobenzonitrile | 0.2 mole, 27.5 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | D-penicillamine | 0.2 mole, 29.8 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | potassium carbonate | 0.1 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 350 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | N-(4'-chlorobenzovl)-D-penicillamine | ClC1=CC=C(C(=O)N[C@H](C(C)(C)S)C(=O)O)C=C1 | C12H14ClNO3S
